US04088611
Diammonium imidobissulfate (NH4SO3)2NH may be prepared by introducing ammonia gas and then sulfurous acid gas into an aqueous solution containing ammonium sulfite to obtain triammonium nitridotrisulfate and heating the obtained nitridotrisulfate in ammonia gas at about 250° C under atmospheric pressure to ammonolyze and then followed by heating at about 300° C.

reactant | ammonia | N | H3N
reactant | sulfurous acid | S(O)(O)=O | H2O3S
reactant | ammonium sulfite | S(=O)([O-])[O-].[NH4+].[NH4+]
product | triammonium nitridotrisulfate | [NH4+].[NH4+].[NH4+].N(S(=O)(=O)[O-])(S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/H3NO9S3.3H3N/c2-11(3,4)1(12(5,6)7)13(8,9)10;;;/h(H,2,3,4)(H,5,6,7)(H,8,9,10);3*1H3
